US07323447B2
To a solution of 3-chloropropylsulfonamide (30.2 g, 191.5 mmol), triethylamine (30.2 mL, 217.0 mmol), and 4-DMAP (2.40 g, 19.6 mmol) in dichloromethane (350 mL) cooled to 0° C. was added slowly dropwise a solution of di-tert-butyldicarbonate (47.2 g, 216.9 mmol) in dichloromethane (250 mL) over 30 minutes. The reaction mixture was allowed to warm to room temperature, stirred an additional 3 hours and was partioned with 1N HCl (300 mL), water (300 mL), brine (300 mL), dried over MgSO4, filtered, and concentrated in vacuo to afford the crude product. This material was triturated with 70 mL of 5% dichloromethane in hexanes to afford 3-chloropropylsulfonylamine tert-butylcarbamate as an off white solid (47.2 g, 96%): 1H NMR (CDCl3) δ 1.51 (s, 9H), 2.33 (m, 2H), 3.60 (t, J=7.3 Hz, 2H), 3.68 (t, J=6.21 Hz, 2H); 13C NMR (CDCl3) δ 26.50, 27.95, 42.37, 50.40, 84.76, 149.53.

reactant | 3-chloropropylsulfonamide | 191.5 mmol, 30.2 g | ClCCCS(=O)(=O)N | C3H8ClNO2S
reactant | triethylamine | 217.0 mmol, 30.2 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 216.9 mmol, 47.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1N, 300 mL | Cl | ClH
reactant | brine | 300 mL | [Cl-].[Na+].O
catalyst | 4-DMAP | 19.6 mmol, 2.40 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | water | 300 mL | O | H2O
product | 3-chloropropylsulfonylamine tert-butylcarbamate | C(C)(C)(C)NC(O)=O.ClCCCS(=O)(=O)N | InChI=1S/C5H11NO2.C3H8ClNO2S/c1-5(2,3)6-4(7)8;4-2-1-3-8(5,6)7/h6H,1-3H3,(H,7,8);1-3H2,(H2,5,6,7)
